US04977167
1-(2-Chloroethylcarbamoyl)-2-oxopyrrolidine (III-1)
A mixture of 65.1 g (765 mmol) of 2-oxopyrrolidine and 67.3 g (638 mmol) of chloroethyl isocyanate was heated with stirring at 95°-105° C. overnight. After cooling, the reaction solution was refined by silica gel chromatography. The resulting compound obtained from the eluate with toluene-ethyl acetate (20/1-10/1 v/v) was recrystallized from CH2Cl2 -ether-n-hexane, whereby 107.7 g of the objective compound 1-(2-chloroethylcarbamoyl)-2-oxopyrrolidine (III-1) melting at 66.5°-67.5° C. was obtained as crystals.

reactant | 2-oxopyrrolidine | 765 mmol, 65.1 g | O=C1NCCC1 | C4H7NO
reactant | chloroethyl isocyanate | 638 mmol, 67.3 g | ClCCN=C=O | C3H4ClNO
solvent | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
product | 1-(2-Chloroethylcarbamoyl)-2-oxopyrrolidine | 107.7 g, Yield: 88.5% | ClCCNC(=O)N1C(CCC1)=O | C7H11ClN2O2
